US08735434B2
(Z)-5-chloro-N-(6,7-dihydro-1H-pyrano[4,3-d]thiazol-2(4H)-ylidene)-2-methoxybenzamide
To a solution of commercially available 6,7-dihydro-4H-pyrano[4,3-d]thiazol-2-amine (1.73 g, 11.1 mmol, JW-Pharmalab) in tetrahydrofuran/N,N-dimethylformamide (5:1, 60 mL) were added 5-chloro-2-methoxybenzoic acid (2.27 g, 12.2 mmol, Aldrich), 1-hydroxybenzotriazole (1.9 g, 12.2 mmol, Aldrich), N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (2.3 g, 12.2 mmol, Aldrich) and triethylamine (4.6 ml, 33.2 mmol). After stirring at 60° C. for 16 h, the reaction mixture was cooled, diluted with EtOAc (50 mL) and quenched with saturated NaHCO3 (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by column chromatography using an Analogix® Intelliflash280 ™ (SiO2, 0-5% methanol in methylene chloride). MS (ESI+) m/z 325 (M+H)+.

reactant | 6,7-dihydro-4H-pyrano[4,3-d]thiazol-2-amine | 11.1 mmol, 1.73 g | N1=C(SC2=C1CCOC2)N | C6H8N2OS
reactant | 5-chloro-2-methoxybenzoic acid | 12.2 mmol, 2.27 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | 1-hydroxybenzotriazole | 12.2 mmol, 1.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 12.2 mmol, 2.3 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 33.2 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran N,N-dimethylformamide | 60 mL | O1CCCC1.CN(C=O)C
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (Z)-5-chloro-N-(6,7-dihydro-1H-pyrano[4,3-d]thiazol-2(4H)-ylidene)-2-methoxybenzamide | ClC=1C=CC(=C(C(=O)\N=C\2/SC3=C(N2)CCOC3)C1)OC | C14H13ClN2O3S
